US04029787
4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzonitrile
43.5 Grams of 4-Chloro-3-sulfamoylbenzonitrile (0.2 mole) were stirred with 45 g of N-methylpiperazine and 50 ml of dimethylformamide for 1 hour at a temperature of from 115° to 120° C., and the reaction solution was subsequently introduced into 0.5 l of water. The crystalline precipitate was suction-filtered, and the moist crude product which had been washed with water, was recrystallized from ethanol.

reactant | 4-Chloro-3-sulfamoylbenzonitrile | 0.2 mole | ClC1=C(C=C(C#N)C=C1)S(N)(=O)=O | C7H5ClN2O2S
reactant | N-methylpiperazine | 45 g | CN1CCNCC1 | C5H12N2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 0.5 l | O | H2O
product | 4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzonitrile | CN1CCN(CC1)C1=C(C=C(C#N)C=C1)S(N)(=O)=O | C12H16N4O2S
